US08017775B2
2-(2,3,4-Trifluorophenyl)-5-nitrobenzoic acid (Reference Compound No. 1-2-(2))
Methyl 2-(2,3,4-trifluorophenyl)-5-nitrobenzoate (Reference Compound No. 1-2-(1), 4.37 g, 14.1 mmol) was dissolved in a mixture of tetrahydrofuran (10 mL) and methanol (30 mL), then 1N aqueous NaOH solution (20 mL) was added thereto, and then the reaction mixture was stirred at room temperature overnight. Water (150 mL) and 1N aqueous HCl solution (30 mL) were added to the reaction mixture to acidify, then ethyl acetate (150 mL) was added thereto, and then separated. The organic layer was washed with saturated brine (150 mL), dried over anhydrous magnesium sulfate, and then the solvent was removed under reduced pressure to give the titled reference compound (4.18 g) as a gray solid. (Yield 100%)

reactant | Methyl 2-(2,3,4-trifluorophenyl)-5-nitrobenzoate | 14.1 mmol, 4.37 g | FC1=C(C=CC(=C1F)F)C1=C(C(=O)OC)C=C(C=C1)[N+](=O)[O-] | C14H8F3NO4
reactant | NaOH | 1N, 20 mL | [OH-].[Na+]
reactant | Water | 150 mL | O | H2O
reactant | HCl | 1N, 30 mL | Cl | ClH
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | methanol | 30 mL | CO | CH4O
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | 2-(2,3,4-Trifluorophenyl)-5-nitrobenzoic acid | 4.18 g, Yield 100% | FC1=C(C=CC(=C1F)F)C1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C13H6F3NO4
